US04788199
A mixture of 1-methyl-3-phenylisoquinoline (21 g), N-bromosuccinimide (30.6 g) and benzoyl peroxide (1 g) in carbon tetrachloride (730 cc) is brought to boiling for 48 hours. After being cooled, the mixture is filtered and the filtrate evaporated to dryness under reduced pressure. The residue is chromatographed on silica gel with a toluene/methanol (98:2 by volume) mixture as eluant. After crystallization in isopropyl ether, 1-bromomethyl-3-phenylisoquinoline (11 g), m.p. 84° C., is obtained.

reactant | 1-methyl-3-phenylisoquinoline | 21 g | CC1=NC(=CC2=CC=CC=C12)C1=CC=CC=C1 | C16H13N
reactant | N-bromosuccinimide | 30.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 730 cc | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromomethyl-3-phenylisoquinoline | 11 g | BrCC1=NC(=CC2=CC=CC=C12)C1=CC=CC=C1 | C16H12BrN
